US08003647B2
(5-Methoxy-4-methyl-2-nitrophenyl)acetonitrile
To a solution of 1-methoxy-2-methyl-4-nitrobezene (0.4 g) and (4-chlorophenoxy)acetonitrile (0.4 g) in N,N-dimethylformamide (10 mL) was added potassium tert-butoxide (0.3 g) under ice cooling and this mixture was stirred at the same temperature for 1 hours. This mixture was poured into water and the resulting mixture was extracted with ethyl acetate. This organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.2 g).

reactant | 1-methoxy-2-methyl-4-nitrobezene | 0.4 g | COC1=C(C=C(C=C1)[N+](=O)[O-])C | C8H9NO3
reactant | (4-chlorophenoxy)acetonitrile | 0.4 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | potassium tert-butoxide | 0.3 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (5-Methoxy-4-methyl-2-nitrophenyl)acetonitrile | 0.2 g | COC=1C(=CC(=C(C1)CC#N)[N+](=O)[O-])C | C10H10N2O3
